US05496805
Following the procedure of Example 16, L-glutamic acid is reacted with 3-acetylthio-2-methylpropanoyl chloride to give (±)-N-[3-(acetylthio)-2-methyl -1-oxopropyl]-L-glutamic acid.

reactant | L-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | 3-acetylthio-2-methylpropanoyl chloride | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
product | (±)-N-[3-(acetylthio)-2-methyl -1-oxopropyl]-L-glutamic acid | C(C)(=O)SCC(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C | C11H17NO6S
